US08461134B2
The mixture of 3-nitrobenzaldehyde (15.1 g, 0.1 mol), acetone (20 mL) and water (40 mL) was slowly added 5% aqueous NaOH (8 mL) from a dropping funnel at 40° C. After the reactant disappeared in TLC monitoring, acetone was removed under reduced pressure. The residue was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried (Na2SO4) and concentrated to give the (E)-4-(3-nitrophenyl)but-3-en-2-one (15 g, 78% yield) as a yellow oil. 1H NMR: (400 MHz, CDCl3) δ 8.31 (t, 1H), 8.15 (t, 1H), 7.83 (d, 1H), 7.52 (t, 1H), 7.44 (d, 1H), 6.70 (d, 1H), 2.33 (s, 3H).

reactant | 3-nitrobenzaldehyde | 0.1 mol, 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | water | 40 mL | O | H2O
reactant | NaOH | 8 mL | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | (E)-4-(3-nitrophenyl)but-3-en-2-one | 15 g, 78% yield | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(C)=O | C10H9NO3
